US07338959B2
3-(4-{[2-(4-Methoxy-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (82 mg, 0.20 mmol) and 3-amino-benzenesulfonamide (34 mg, 0.20 mmol) as a white solid (83 mg, 72%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ10.28 (br s, 2H), 9.53 (br s, 1H), 8.44 (s, 1H), 7.91 (d, J=6.6 Hz, 1H), 7.73 (M, 1H), 7.64 (d, J=8.4 Hz, 1H), 7.43 (d, J=8.4 Hz, 4H), 7.28-7.34 (m, 3H), 6.94 (d, J=8.4 Hz, 2H), 5.81 (m, 1H), 4.67 (d, J=5.7 Hz, 2H), 3.74 (s, 3H), 3.71 (s, 3H), 3.50 (s, 3H). MS (ESI) m/z=545 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 82 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1)C | C21H21ClN6O
reactant | 3-amino-benzenesulfonamide | 0.20 mmol, 34 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 3-(4-{[2-(4-Methoxy-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride | Cl.COC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC=3C=C(C=CC3)S(=O)(=O)N)C)C=C1 | InChI=1S/C27H28N8O3S.ClH/c1-34(25-13-14-29-26(33-25)31-19-5-4-6-22(15-19)39(28,36)37)20-9-12-24-23(16-20)32-27(35(24)2)30-17-18-7-10-21(38-3)11-8-18;/h4-16H,17H2,1-3H3,(H,30,32)(H2,28,36,37)(H,29,31,33);1H
